US06211215B1
In substantially the same manner as in Reference Example 47, 2-benzofurancarboxamide was allowed to react with 1,3-dichloroacetone to give 2-(2-benzofuranyl)-4-chloromethyloxazole. The yield was 30%. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 133-134° C.

reactant | 2-benzofurancarboxamide | O1C(=CC2=C1C=CC=C2)C(=O)N | C9H7NO2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(2-benzofuranyl)-4-chloromethyloxazole | yield was 30% | O1C(=CC2=C1C=CC=C2)C=2OC=C(N2)CCl | C12H8ClNO2
